US09376441B2
In a microwave reaction vessel were placed a mixture of (R)-4-((R)-1-((6-chloro-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: and (R)-4-((R)-1-((6-bromo-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: (50.0 mg, 0.14 mmol), 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one: (141.9 mg, 0.55 mmol), and Pd(PPh3)4 (11.1 mg, 0.010 mmol) in dioxane (1 ml) and 2N Na2CO3 (1 ml). The mixture was sonicated for 15 sec. and degassed with nitrogen gas for 30 sec. Then it was placed in the microwave reactor at 135° C. for 15 min. The reaction mixture was directly loaded onto the pre-packed silica cartridge, and purified by flash chromatography (100% dichloromethane to 25% MeOH in dichloromethane). The fractions were collected, concentrated, and further purified by reverse phase chromatography. The fractions were collected, neutralized with sat. NaHCO3, and extracted with EtOAc. The combined organic layers were washed with water and brine, dried (Na2SO4), filtered, and concentrated to give 17 mg (30%) of 6-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)indolin-2-one:. 1H NMR (300 MHz, d6-DMSO) δ 10.42 (s, 1H), 8.29 (s, 1H), 7.70 (s, 1H), 7.64 (m, 3H), 7.26 (d, J=8.0 Hz, 1H), 5.55 (m, 1H), 3.72 (m, 1H), 3.45 (m, 3H), 3.24 (m, 1H), 2.86 (m, 1H), 2.48 (m, 2H), 1.43 (d, J=6.4 Hz, 3H), 1.11 (m, 4H). MS (ESI+) m/z 418.1 (M+H).

reactant | (R)-4-((R)-1-((6-chloro-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | ClC1=CC2=C(C(=N1)O[C@H](C)[C@@H]1CC(NC1)=O)N(C=N2)C2CC2 | C15H17ClN4O2
reactant | (R)-4-((R)-1-((6-bromo-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | BrC1=CC2=C(C(=N1)O[C@H](C)[C@@H]1CC(NC1)=O)N(C=N2)C2CC2 | C15H17BrN4O2
reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one | CC1(OB(OC1(C)C)C1=CC=C2CC(NC2=C1)=O)C | C14H18BNO3
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 2N, 1 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.010 mmol, 11.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)indolin-2-one | 17 mg, 30% | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=C1CC(NC1=C2)=O)O[C@H](C)[C@H]2CNC(C2)=O | C23H23N5O3
